* C:\Users\lugfe\Documents\GitHub\Electro1-TP2\Darlington.asc
Q1 Vc2 N002 Ve1 0 BC547C
Q2 Vc2 Ve1 Ve2 0 BC547B
R1 Vc2 N002 1360k
R3 Vs Vg 3.4k
V1 Vc2 0 15
V2 0 Vg 15
R4 Vout 0 2.2k
V4 Vin 0 SINE(0 1 4k) AC 1
J1 Ve2 Vg Vs MPF102
C3 Vin N001 4.7µ
C1 Vout NC_01 4.7µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.jft
.tran 0 1ms 0
.backanno
.end
